data/mechanism_extracts/JACS/10.1021_jacs.4c10431.json
{"doi": "10.1021_jacs.4c10431", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical TEMPO-mediated dioxygenation of aryl-substituted allenes to give vinyl-TEMPO allylic alcohols (and minor diene), enabling trifunctionalization of the allene framework", "mechanism_family": ["mediator_anodic", "electrocatalysis_outer_sphere", "radical_cation", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of TEMPO to TEMPO+, which acts as an outer-sphere single-electron mediator to oxidize the allene to a vinyl radical cation (INT1); cathode generates -OH (and 1/2 H2) that hydroxylates the resulting TEMPO-allyl cation INT2", "key_intermediates": [{"name": "TEMPO+ (oxoammonium, anodically generated mediator)", "smiles": "C[C+]1(C)CCCC(C)(C)N1[O]", "role": "reactive"}, {"name": "Allene vinyl/allyl radical cation INT1 (from 1, Ph-substituted)", "smiles": null, "role": "transient"}, {"name": "TEMPO-trapped allyl cation INT2 (alpha-(TEMPO-oxy) allyl cation)", "smiles": null, "role": "reactive"}, {"name": "Allylic alcohol vinyl-TEMPO product 2", "smiles": null, "role": "reactive"}, {"name": "Diene vinyl-TEMPO 3 (deprotonation product, minor)", "smiles": null, "role": "off_pathway"}, {"name": "Cathodically generated hydroxide / H2", "smiles": "[OH-]", "role": "reactive"}], "electron_flow": "TEMPO is oxidized at the anode to TEMPO+, which outer-sphere oxidizes the allene to vinyl radical cation INT1; TEMPO radical traps INT1 to give the allyl cation INT2, which is hydroxylated at the benzylic carbon by cathodically generated -OH (with base) to yield allylic alcohol 2, while a competing deprotonation by lutidine/base gives diene 3.", "rate_determining_step": "TEMPO+-mediated outer-sphere SET oxidation of the allene to INT1 (substrate-dependent; selectivity between 2 vs 3 controlled at the TS where TS_OH-benzyl is 2.4 kcal/mol below TS_diene)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "intermediate_trap", "observation": "Serves as mediator and radical trap; vinyl-TEMPO adduct (INT2-derived products 2 and 3) isolated, demonstrating trapping of vinyl radical/cation"}, {"name": "TEMPO+ (oxoammonium salt, preoxidized TEMPO)", "smiles": null, "purpose": "redox_probe", "observation": "Substitution of TEMPO+ for TEMPO without electrolysis gave product, confirming TEMPO+ is the active oxidant rather than direct anodic allene oxidation"}, {"name": "Acetamido-TEMPO / Bobbitt's salt (ACT+ BF4-)", "smiles": null, "purpose": "redox_probe", "observation": "Higher-oxidation-potential mediator enabled reaction of electron-poor allene 5f to give 11 in 28%, supporting mediated SET mechanism sensitive to substrate oxidation potential"}, {"name": "Hammett series of para-substituted allenes (5a-g, 12a-c)", "smiles": null, "purpose": "other", "observation": "Yields track with allene oxidation potential: electron-rich allenes (lower E_ox) react; electron-poor allenes fail, consistent with rate-limiting SET to substrate"}, {"name": "Cyclic voltammetry of 1, TEMPO, and mixture", "smiles": null, "purpose": "redox_probe", "observation": "No new oxidation peak for 1+TEMPO mixture (no EDA complex); TEMPO+ reduction wave diminishes when potential is sufficient to oxidize 1, indicating TEMPO+ consumption by allene (outer-sphere ET)"}, {"name": "Constant-potential electrolysis at 1.0 V", "smiles": null, "purpose": "redox_probe", "observation": "Only recovered SM after 1.25 h; 51% of 2 after 16 h, confirming TEMPO/TEMPO+ mediation rather than direct allene oxidation"}, {"name": "ReactNMR (operando 1H NMR)", "smiles": null, "purpose": "other", "observation": "Allylic alcohol 2 forms within 5 min; diene 3 appears only after 7 min, consistent with computed lower barrier for hydroxylation vs deprotonation"}, {"name": "Competition: allene 1 vs alpha-methylstyrene vs phenylpropyne", "smiles": null, "purpose": "other", "observation": "Only allene 1 reacted (52% of 2), reflecting its lowest oxidation potential (1.29 vs 1.43 vs 1.64 V) and supporting SET-controlled selectivity"}, {"name": "DFT (omegaB97XD/cc-pVTZ // M06-2X/def2-TZVP, SMD)", "smiles": null, "purpose": "other", "observation": "TS_OH-benzyl 11.3 vs TS_diene 13.7 kcal/mol; NPA charge at C3 = 0.37 vs C1 = 0.21 explains hydroxylation regioselectivity at benzylic carbon"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_TEMPO", "stoichiometric_intermediate", "DFT", "kinetic_order", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Two pathways for INT2 access were considered: (A) direct anodic oxidation of allene to INT1 then TEMPO trap, and (B) TEMPO-mediated oxidation via outer- or inner-sphere ET. CV (no shift on mixing 1+TEMPO; loss of TEMPO+ reduction wave only when 1 can be oxidized), TEMPO+ stoichiometric competence, and constant-potential studies favor the outer-sphere TEMPO+-mediated pathway (Scheme 2B, outer-sphere). Direct oxidation (Scheme 2A) and inner-sphere EDA pathway are disfavored. Chemoselectivity between allylic alcohol 2 (Path A, hydroxylation by cathodic -OH) and diene 3 (Path B, deprotonation by lutidine/base) is set kinetically (ΔΔG‡ = 2.4 kcal/mol). Over-oxidation of 2 by a second TEMPO equivalent gives ketone 4 at higher T. Postfunctionalization of 2 with electrophiles (NBS, NIS, Selectfluor, I2, TFA, BF3·OEt2, TEMPO+) achieves allene trifunctionalization."}
